US07576115B2
1) Synthesis of 3-bromo-4-methoxycarbonylbenzoic acid
To 3-amino-4-methoxycarbonylbenzoic acid (1.95 g, 10 mmol) suspended in 48% hydrobromic acid (50 mL) and acetic acid (50 mL), an aqueous solution (20 mL) of sodium nitrite (0.69 g, 10 mmol) was added at −10° C., and the resulting solution was stirred for 30 minutes. The solution was added to copper bromide (I) (1.44 g, 10 mmol) in 48% hydrobromic acid (50 mL) at −10° C., and the resulting reaction mixture was stirred at room temperature for 1 hour. After addition of ethyl acetate, the reaction mixture was washed with water, dried over magnesium sulfate, filtered through celite and purified by silica gel column chromatography to give 1.70 g of the desired product as a colorless solid (yield 59%).

reactant | 3-amino-4-methoxycarbonylbenzoic acid | 10 mmol, 1.95 g | NC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H9NO4
reactant | sodium nitrite | 10 mmol, 20 mL, 0.69 g | N(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrobromic acid | 50 mL | Br | BrH
reactant | hydrobromic acid | 50 mL | Br | BrH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | copper chloride | 10 mmol, 1.44 g | [Cu](Cl)Cl
product | 3-bromo-4-methoxycarbonylbenzoic acid | 1.70 g, yield 59% | BrC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H7BrO4
